US04057636
By following the procedure in Example 1, but substituting N-(1,1-diethylpropyl)-N'-3-pyridylcarbodiimide for the N-tert-butyl-N'-3-pyridylcarbodiimide, the N"-cyano-N-(1,1-diethylpropyl)-N'-3-pyridylguanidine was obtained with a melting point of 192.5°-193.5° C.

reactant | N-(1,1-diethylpropyl)-N'-3-pyridylcarbodiimide | C(C)C(CC)(CC)N=C=NC=1C=NC=CC1 | C13H19N3
reactant | N-tert-butyl-N'-3-pyridylcarbodiimide | C(C)(C)(C)N=C=NC=1C=NC=CC1 | C10H13N3
product | N"-cyano-N-(1,1-diethylpropyl)-N'-3-pyridylguanidine | C(#N)N=C(NC(CC)(CC)CC)NC=1C=NC=CC1 | C14H21N5
